US09382241B2
Step 2: 6-(3-chlorophenyl)-N-cyclopropylquinazolin-4-amine
To an 8 mL screw-cap vial was added N-cyclopropyl-6-iodo-quinazolin-4-amine (0.25 mmol 78 mg), (3-chlorophenyl)boronic acid, (1.2 equiv., 0.30 mmol, 47 mg), 1-4 dioxane (0.6 mL), potassium phosphate tribasic, (2M in H2O, 3 equiv., 0.75 mmol, 0.0.38 mL), and Bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(11) (0.05 equiv.; 0.013 mmol, 9 mg). The reaction was capped and shaken at 60° C. for 1 h. The reaction was cooled to room temperature and the phases separated. Organic phase was then concentrated. Crude was purified by reverse phase HPLC yielding 35 mg of product. 1H NMR (400 MHz, DMSO) δ 8.60-8.49 (m, 2H), 8.44-8.35 (s, 1H), 8.18-8.05 (d, J=8.7, 1H), 7.93-7.87 (s, 1H), 7.84-7.71 (m, 2H), 7.62-7.51 (t, J=7.9 Hz, 1H), 7.51-7.43 (d, J=8.4 Hz, 1H), 3.12-2.98 (m, 1H), 0.90-0.78 (m, 2H), 0.72-0.64 (m, 2H). LCMS M/Z (M+H)=296.

reactant | N-cyclopropyl-6-iodo-quinazolin-4-amine | 0.25 mmol, 78 mg | C1(CC1)NC1=NC=NC2=CC=C(C=C12)I | C11H10IN3
reactant | (3-chlorophenyl)boronic acid | 0.30 mmol, 47 mg, 1.2 equiv. | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | potassium phosphate tribasic | 0.75 mmol, 2M, 3 equiv. | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | Bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(11) | 0.013 mmol, 9 mg, 0.05 equiv. | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
solvent | 1-4 dioxane | 0.6 mL | C1COCCO1 | C4H8O2
product | 6-(3-chlorophenyl)-N-cyclopropylquinazolin-4-amine | 35 mg | ClC=1C=C(C=CC1)C=1C=C2C(=NC=NC2=CC1)NC1CC1 | C17H14ClN3
